US08071607B2
Compound 28A. 1N-[4-(4-Amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-butyramide
Title compound 11A, 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (38 mg, 1.1 eq, 0.17 mmol) was added to a solution of butyric acid (13 mg, 1.0 eq, 0.15 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26 mg, 1.1 eq, 0.17 mmol), 1-hydroxybenzotriazole (21 mg, 1.0 eq, 0.15 mmol) in DMF (1 ml) which had been stirred for 10 minutes under an inert atmosphere. The reaction was stirred at room temperature for 18 hours, after which methanol (1 ml) was added and the solvents were removed in vacuo. The resultant solid purified by semi-preparative HPLC to yield the title compound as a white solid (8.5 mg, 0.029 mmol, 19%). LCMS: [M+H]+=297, Rt=1.45 min, 100% purity.

reactant | 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.17 mmol, 38 mg, 1.1 eq | NC1=CC=C(C=C1)N1N=CC=2C1=NC=NC2N | C11H10N6
reactant | butyric acid | 0.15 mmol, 13 mg, 1.0 eq | C(CCC)(=O)O | C4H8O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.17 mmol, 26 mg, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 21 mg, 1.0 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
product | [4-(4-Amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-butyramide | 0.029 mmol, 8.5 mg, 19% | NC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)C(C(=O)N)CC | C15H16N6O
